US06025382
Preparation of 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-[2-(3,3-dimethylpropylamino)ethyl]phenyl]-benzo[b]thiophene.
3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-(2-aminoethyl)phenyl]benzo[b]thiophene (75 mg) was dissolved in dichloromethane (3.0 mL), treated with trimethylacetaldehyde (30 μL) and sodium triacetoxyborohydride (56 mg) sequentially and allowed to stir at ambient temperature for 3 h. The reaction mixture was concentrated, and column chromatography with ET3N:EtOAc (0-5%) afforded the product (55 mg).

reactant | 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-(2-aminoethyl)phenyl]benzo[b]thiophene | 75 mg | N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)CCN)C=CC=C3)C=C1 | C29H32N2OS
reactant | trimethylacetaldehyde | 30 μL | CC(C=O)(C)C | C5H10O
reactant | sodium triacetoxyborohydride | 56 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-[2-(3,3-dimethylpropylamino)ethyl]phenyl]-benzo[b]thiophene | 55 mg | N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)CCNCCC(C)C)C=CC=C3)C=C1 | C34H42N2OS
